US08426411B2
To a slurry of CuI (4.21 g, 22.12 mmol) in THF (61.4 mL) at about 0° C. was added ethylmagnesium bromide (1.0 M in THF, 44.2 mL, 44.2 mmol) dropwise. After about 30 min, the reaction mixture was cooled to about −78° C. and a solution of 1-tert-butyl 3-ethyl 4-(diethoxyphosphoryloxy)-5,6-dihydropyridine-1,3(2H)-dicarboxylate (7.51 g, 18.43 mmol) in THF (61 mL) was added slowly. The reaction mixture was stirred at about −78° C. for about 1 h then warmed to about 0° C. The reaction mixture was stirred at about 0° C. for about 1.5 h, then warmed to ambient temperature and stirred for about 1 h. The reaction mixture was cooled to about −78° C. and saturated aqueous NH4Cl (100 mL) was slowly added. The reaction mixture was allowed to warm to ambient temperature and stirred for about 16 h. The mixture was extracted with Et2O (100 mL). The aqueous layer was further extracted with Et2O (2×50 mL). The organic layers were combined, washed with saturated aqueous NH4Cl (50 mL), dried over anhydrous Na2SO4, filtered, concd under reduced pressure and purified by silica gel chromatography eluting with a gradient of 0-30% EtOAc in heptane to yield 1-tert-butyl 3-ethyl 4-ethyl-5,6-dihydropyridine-1,3(2H)-dicarboxylate (0.785 g, 15%) as a clear oil: 1H NMR (CDCl3) δ 4.23 (d, J=7.1 Hz, 2H), 4.12 (s, 2H), 3.48 (t, J=5.8 Hz, 2H), 2.52 (q, J=7.5 Hz, 2H), 2.28 (t, J=5.8 Hz, 2H), 1.51 (s, 9H), 1.32 (t, J=7.1 Hz, 3H), 1.09 (t, J=7.5 Hz, 3H).

reactant | ethylmagnesium bromide | 44.2 mmol, 1.0 M, 44.2 mL | C(C)[Mg]Br
reactant | 1-tert-butyl 3-ethyl 4-(diethoxyphosphoryloxy)-5,6-dihydropyridine-1,3(2H)-dicarboxylate | 18.43 mmol, 7.51 g | C(C)OP(=O)(OCC)OC1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C17H30NO8P
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 61.4 mL | C1CCOC1 | C4H8O
solvent | THF | 61 mL | C1CCOC1 | C4H8O
catalyst | CuI | 22.12 mmol, 4.21 g | [Cu]I
product | 1-tert-butyl 3-ethyl 4-ethyl-5,6-dihydropyridine-1,3(2H)-dicarboxylate | 0.785 g, 15% | C(C)C1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H25NO4
